US06613743B2
To 9.5 mL (20 eq., 142 mmol) of well stirred chlorosulfonic acid at ˜25° C. was added N-methanesulfonyl-2-aminobenzimidazole (1.5 g, 7.1 mmol) in small portions over 1C minutes with slight exotherming. The solution was stirred at ˜25° C. for 3.5 hours, then was added dropwise to a well stirred mixture of ice and water. The aqueous solution was slowly basified to pH ˜7.5 with solid sodium bicarbonate and extracted with EtOAc. A precipitate formed in the organic phase which was filtered off and was washed with H20 and dried on the filter to yield 1.23 g of N-methanesulfonyl-5-chlorosulfonyl-2-aminobenzimidazole. HPLC, single peak, ret. time=7.61 min. MS: Obs. M +H@ 310.0 amu.

reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | N-methanesulfonyl-2-aminobenzimidazole | 7.1 mmol, 1.5 g | CS(=O)(=O)N1C(=NC2=C1C=CC=C2)N | C8H9N3O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | N-methanesulfonyl-5-chlorosulfonyl-2-aminobenzimidazole | 1.23 g | CS(=O)(=O)N1C(=NC2=C1C=CC(=C2)S(=O)(=O)Cl)N | C8H8ClN3O4S2
